US05011927
3.8 g (0.0373 mol) of triethylamine were added at -20° C. to a mixture of 5 g (0.0373 mol) of 2,4,6-trifluoropyrimidine in 50 ml of methanol within 5 minutes, and the mixture was stirred at this temperature for a further 40 minutes. After the reaction was complete, the mixture was warmed to 25° C. and the excess methanol was removed by distillation under reduced pressure. The residue obtained in this way was partitioned between methylene chloride and water, and the organic phase was dried over magnesium sulfate and concentrated. 4.6 g (85% of theory) of an isomer mixture which, according to investigation by gas chromatography, contained 46% of the title compound and 48% of 4,6-difluoro-2-methoxypyrimidine were obtained in this way.

reactant | triethylamine | 0.0373 mol, 3.8 g | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trifluoropyrimidine | 0.0373 mol, 5 g | FC1=NC(=CC(=N1)F)F | C4HF3N2
reactant | methanol | 50 ml | CO | CH4O
product | 4,6-difluoro-2-methoxypyrimidine | 48% | FC1=NC(=NC(=C1)F)OC | C5H4F2N2O
